US04927838
The reaction was carried out as in Example 87 using the following reagents: sodium hydride (56% dispersion in oil; 8.36 g); dimethylsulfoxide (100 mL), (6-carboxyhexyl)triphenylphosphonium bromide (37.7 g), benzophenone (17.5 g); and tetrahydrofuran (100 mL). The crude product, isolated in the usual way, was recrystallized from hexane (200 mL) to yield 16.6 g of 8,8-diphenyl-7-octenoic acid, mp 88°-89° C. Anal. Calculated for C20H22O2 : C, 81.60; H, 7.53. Found: C, 81.34; H, 7.25.

reactant | sodium hydride | 8.36 g | [H-].[Na+]
reactant | dimethylsulfoxide | 100 mL | CS(=O)C | C2H6OS
reactant | (6-carboxyhexyl)triphenylphosphonium bromide | 37.7 g | [Br-].C(=O)(O)CCCCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | benzophenone | 17.5 g | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 8,8-diphenyl-7-octenoic acid | 16.6 g | C1(=CC=CC=C1)C(=CCCCCCC(=O)O)C1=CC=CC=C1 | C20H22O2
